US07829585B2
This step is a step for obtaining compound (2-5) by reducing the triple bond of compound (2-4) to a double bond. Compound (2-5) can be obtained by using a catalyst such as Lindlar's catalyst, palladium-barium sulfate or the like in a solvent such as tetrahydrofuran, ethyl acetate, acetonitrile, methanol, ethanol or the like and under a hydrogen atmosphere. A preferable solvent is ethyl acetate. In order to obtain a favorable result, 0.1 to 1 equivalent of quinoline may be added with respect to compound (2-4). A catalytic amount to an excess of catalyst is used with respect to compound (2-4). The reaction temperature is room temperature, the reaction time is from 15 minutes to 24 hours, and the reaction pressure is from 1 to 4 atmospheres.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | methanol | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Lindlar's catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
catalyst | palladium-barium sulfate | S(=O)(=O)([O-])[O-].[Ba+2].[Pd+2].S(=O)(=O)([O-])[O-]
solvent | ethanol | C(C)O | C2H6O
product | quinoline | 0.1 to 1 equivalent | N1=CC=CC2=CC=CC=C12 | C9H7N
